US04420325
A solution of 33.5 g of 1-(2-nitrophenyl)ethyl bromide and 11.4 g of thiourea in 375 ml absolute ethanol was stirred at reflux temperature for 31/2 hours. The reaction mixture was allowed to cool to room temperature and was concentrated to one-half volume in vacuo. The solution was then cooled to ca. -60° C. and 1-chlorobutane was added until a gummy solid formed. The supernatant was decanted and the residue dried in vacuo to give 38 g of 1-(2-nitrophenyl)ethyl carbamimidothioate hydrobromide as a light orange solid which was not further purified.

reactant | 1-(2-nitrophenyl)ethyl bromide | 33.5 g | [N+](=O)([O-])C1=C(C=CC=C1)C(C)Br | C8H8BrNO2
reactant | thiourea | 11.4 g | NC(=S)N | CH4N2S
solvent | ethanol | 375 ml | C(C)O | C2H6O
product | 1-(2-nitrophenyl)ethyl carbamimidothioate hydrobromide | 38 g | Br.C(N)(=N)SC(C)C1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C9H11N3O2S.BrH/c1-6(15-9(10)11)7-4-2-3-5-8(7)12(13)14;/h2-6H,1H3,(H3,10,11);1H
